US07723333B2
2-Isopropyl-5-phenyl-4-[(4-phenylbutyl)amino]isothiazol-3(2H)-one 1,1-dioxide
A solution of 4-chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.150 g, 0.521 mmol), TEA (0.079 g, 0.782 mmol) and 4-phenylbutylamine (0.117 g, 0.782 mmol) in MeCN (3 mL) was heated in a microwave reactor at 120° C. for 5 mins. The reaction mixture was evaporated and the residue was purified by silica gel column chromatography (Horizons Biotage) using a 75:25 mixture of heptane and EtOAc as eluant, to give the title compound (0.174 g, 84%); 1H NMR (500 MHz, CDCl3): δ 7.52-7.48 (m, 2H), 7.45-7.41 (m, 3H), 7.30-7.26 (m, 2H), 7.22-7.17 (m, 1H), 7.10-7.06 (m, 2H), 5.28-5.23 (m, 1H), 4.45-4.38 (m, 1H), 2.89-2.84 (m, 2H), 2.49-2.44 (m, 2H), 1.59 (d, 6H), 1.43-1.38 (m, 4H); 13C NMR (125 MHz, CDCl3): δ 158.8, 141.8, 135.6, 131.8, 129.8, 128.8, 128.6, 128.5, 126.2, 125.3, 106.8, 47.7, 44.2, 35.4, 29.2, 28.3, 20.4; Mass Spectrum: M−H+ 399.

reactant | 4-chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.521 mmol, 0.150 g | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)C)=O | C12H12ClNO3S
reactant | 4-phenylbutylamine | 0.782 mmol, 0.117 g | C1(=CC=CC=C1)CCCCN | C10H15N
solvent | MeCN | 3 mL | CC#N | C2H3N
product | 2-Isopropyl-5-phenyl-4-[(4-phenylbutyl)amino]isothiazol-3(2H)-one 1,1-dioxide | 0.174 g, 84% | C(C)(C)N1S(C(=C(C1=O)NCCCCC1=CC=CC=C1)C1=CC=CC=C1)(=O)=O | C22H26N2O3S
